US04871765
53.4 g of methanesulfonamide and 89.4 g of 2,2-dichloro-1,3-benzodioxole were heated under reflux with 400 ml of anhydrous ethyl acetate for 7 hours. After cooling, the solvent was removed by distillation under reduced pressure. To the residue thus obtained was added 200 ml of benzene, and the mixture was refluxed for 10 minutes and then cooled slowly to room temperature with stirring. The crystals deposited were collected by filtration and washed with benzene, water and 2-propanol in this order to obtain 83 g (yield: 83%) of 2-methanesulfonylimino-1,3-benzodioxole.

reactant | methanesulfonamide | 53.4 g | CS(=O)(=O)N | CH5NO2S
reactant | 2,2-dichloro-1,3-benzodioxole | 89.4 g | ClC1(OC2=C(O1)C=CC=C2)Cl | C7H4Cl2O2
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-methanesulfonylimino-1,3-benzodioxole | 83 g, yield: 83% | CS(=O)(=O)N=C1OC2=C(O1)C=CC=C2 | C8H7NO4S
